US05211879
Synthesis of (S)-(-)-2-fluoro-2-methylbutanoic acid monoethyl ester
4.8 g (0.025 mol) of copper iodide was added to 10 ml of dried ether, which was cooled to -25°~-30° C. under a nitrogen gas flow and thereafter 36 ml of methyl lithium was added dropwise thereto. Then, 3.8 g (0.01 mol) of (S)-(-)-3-(p-toluenesulfonyl)-2-fluoro-2-methylpropionic acid monoethyl ester dissolved in 10 ml of dried ether at -15°~-20° C. was added dropwise thereto, which was stirred at 0°~5° C. for 10 hours. After the completion of the reaction, the precipitate was removed by filtration and then the filtrate was washed with 1 normal hydrochloric acid and further with water and dried on anhydrous magnesium sulfate. After the removal of magnesium sulfate by filtration, the solvent was distilled off and the residue as it is was used for the following reaction.

reactant | methyl lithium | 36 ml | C[Li]
reactant | (S)-(-)-3-(p-toluenesulfonyl)-2-fluoro-2-methylpropionic acid monoethyl ester | 0.01 mol, 3.8 g | C(C)OC([C@](CS(=O)(=O)C1=CC=C(C=C1)C)(C)F)=O | C13H17FO4S
solvent | ether | 10 ml | CCOCC | C4H10O
catalyst | copper iodide | 0.025 mol, 4.8 g | [Cu](I)I
solvent | ether | 10 ml | CCOCC | C4H10O
product | (S)-(-)-2-fluoro-2-methylbutanoic acid monoethyl ester | C(C)OC([C@@](CC)(C)F)=O | C7H13FO2
